US08791255B2
0.190 ml of 1M sodium hydroxide is added to a solution of 145 mg of ethyl 2-[4-({[(2-methylpropan-2-yl)oxy]carbonyl}oxy)-6-(morpholin-4-yl)pyrimidin-2-yl]propanoate in 5 ml of tetrahydrofuran. After stirring overnight at ambient temperature, the reaction mixture is concentrated to dryness under reduced pressure. 100 mg of sodium 2-[4-(morpholin-4-yl)-6-oxo-1,6-dihydropyrimidin-2-yl]propanoate are obtained in the form of a solid which is used as it is in the subsequent stage.

reactant | sodium hydroxide | 1M, 0.190 ml | [OH-].[Na+]
reactant | ethyl 2-[4-({[(2-methylpropan-2-yl)oxy]carbonyl}oxy)-6-(morpholin-4-yl)pyrimidin-2-yl]propanoate | 145 mg | CC(C)(C)OC(=O)OC1=NC(=NC(=C1)N1CCOCC1)C(C(=O)OCC)C | C18H27N3O6
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | sodium 2-[4-(morpholin-4-yl)-6-oxo-1,6-dihydropyrimidin-2-yl]propanoate | 100 mg | N1(CCOCC1)C=1N=C(NC(C1)=O)C(C(=O)[O-])C.[Na+] | InChI=1S/C11H15N3O4.Na/c1-7(11(16)17)10-12-8(6-9(15)13-10)14-2-4-18-5-3-14;/h6-7H,2-5H2,1H3,(H,16,17)(H,12,13,15);/q;+1/p-1
